* 100 V FET protection candidate, variant B. Screening only.
* Reversed hot-plug, charged-output reversal, loss of input, and restart.
* 0.2/2/20 uH source/harness inductance sensitivity; 20 mOhm source.
.lib C:\Users\jared\AppData\Local\LTspice\lib\sub\LTC4368-1.sub
.lib C:\Users\jared\AppData\Local\LTspice\lib\sub\LT3010.lib
.inc models\pdb_devices.lib
.inc pdb\pdb_hvb.lib
.step param LH list 200n 2u 20u
VBAT SRC 0 PWL(0 0 10u -25 50m -25 50.01m 16.8 150m 16.8 150.01m -25 250m -25 250.01m 16.8 350m 16.8 350.01m 0 400m 0 400.01m 16.8 600m 16.8)
RSRC SRC L_IN 20m
LSRC L_IN VIN {LH} Rser=1m
XPDB VIN VOUT V3V3 GP GF COMMON FAULT ALERT SCL SDA 0 PDB_CURRENT
RLOAD VOUT 0 6.72
CLOAD VOUT 0 220u Rser=20m
.tran 0 600m 0 5u
.options method=gear reltol=0.003 cshunt=10p
* --- INA228 analog pin stress (abs max -0.3 V) ---
.meas TRAN INP_MIN MIN V(XPDB:INA_IN_P)
.meas TRAN INN_MIN MIN V(XPDB:INA_IN_N)
.meas TRAN VBUS_MIN MIN V(XPDB:INA_VBUS)
* --- LTC4368 pin stress (Rev C p.4 absolute maximum ratings) ---
.meas TRAN U1_VIN_MIN  MIN V(XPDB:VIN_PIN)
.meas TRAN U1_VIN_MAX  MAX V(XPDB:VIN_PIN)
.meas TRAN U1_VOUT_MIN MIN V(XPDB:SHUNT_LO)
.meas TRAN U1_VOUT_MAX MAX V(XPDB:SHUNT_LO)
.meas TRAN U1_SENSE_MIN MIN V(XPDB:SHUNT_HI)
.meas TRAN U1_SENSE_MAX MAX V(XPDB:SHUNT_HI)
.meas TRAN U1_VOUT_SENSE_ABS MAX ABS(V(XPDB:SHUNT_LO,XPDB:SHUNT_HI))
.meas TRAN U1_VIN_VOUT_MIN MIN V(XPDB:VIN_PIN,XPDB:SHUNT_LO)
.meas TRAN U1_VIN_VOUT_MAX MAX V(XPDB:VIN_PIN,XPDB:SHUNT_LO)
.meas TRAN U1_GATE_MIN MIN V(GP)
.meas TRAN U1_GATE_VIN_MAX MAX V(GP,XPDB:VIN_PIN)
.meas TRAN U1_RETRY_MIN MIN V(XPDB:N_RETRY)
.meas TRAN U1_RETRY_MAX MAX V(XPDB:N_RETRY)
* --- divider pins: below -0.3 V is allowed if pin current stays under 1 mA ---
.meas TRAN U1_UV_MIN  MIN V(XPDB:N_UV)
.meas TRAN U1_OV_MIN  MIN V(XPDB:N_OV)
.meas TRAN U1_OV_MAX  MAX V(XPDB:N_OV)
.meas TRAN U1_SHDN_MIN MIN V(XPDB:SHDN_LTC)
.meas TRAN BUS_MIN MIN V(XPDB:VBAT_FUSED)
* --- MOSFET stress ---
.meas TRAN Q1_VDS MAX ABS(V(XPDB:VBAT_FUSED,COMMON))
.meas TRAN Q2_VDS MAX ABS(V(XPDB:PDB_PROTECTED,COMMON))
.meas TRAN VGS_MAX MAX ABS(V(GF,COMMON))
* --- rail integrity ---
.meas TRAN V3V3_MAX MAX V(V3V3)
.meas TRAN VOUT_FINAL AVG V(VOUT) FROM 550m TO 595m
.save V(XPDB:INA_IN_P) V(XPDB:INA_IN_N) V(XPDB:INA_VBUS) V(VOUT) V(V3V3)
.save V(XPDB:VBAT_FUSED) V(XPDB:VIN_PIN) V(COMMON) V(XPDB:PDB_PROTECTED) V(GF) V(GP)
.save V(XPDB:SHUNT_HI) V(XPDB:SHUNT_LO) V(XPDB:N_UV) V(XPDB:N_OV)
.save V(XPDB:N_RETRY) V(XPDB:SHDN_LTC)
.end
